US09227963B2
N-cyclooctyl-4-iodo-3-methylpyridin-2-amine
2-Fluoro-4-iodo-3-methylpyridine (700 mg) in cyclooctanamine (3.8 g) was heated at 130° C. overnight, cooled and diluted with dichloromethane. The resulting mixture was loaded onto a silica gel cartridge, eluting with 0-100% dichloromethane in hexanes to provide the title compound.

reactant | 2-Fluoro-4-iodo-3-methylpyridine | 700 mg | FC1=NC=CC(=C1C)I | C6H5FIN
reactant | cyclooctanamine | 3.8 g | C1(CCCCCCC1)N | C8H17N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-cyclooctyl-4-iodo-3-methylpyridin-2-amine | C1(CCCCCCC1)NC1=NC=CC(=C1C)I | C14H21IN2
